US07485634B2
To prepare 8-dibenzylamino-1,1-dimethyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester: Benzyl bromide (10 mL, 84.2 mmol) was added to a stirred mixture of (6-amino-1H-indol-3-yl)acetonitrile (Brown, R. K.; Garrison, R. A., J. Am. Chem. Soc. (1955), Vol. 77, pp. 3839-3842) (5.16 g, 30.14 mmol), potassium carbonate (10.83 g, 78.36 mmol), sodium iodide (560 mg, 3.74 mmol) and anhydrous DMF (150 mL) at ambient temperature under nitrogen. The resulting mixture was stirred at ambient temperature overnight, then poured into a mixture of water, and extracted with ethyl acetate. The combined extracts were washed with ammonium chloride solution, and evaporated in vacuo. The residue was purified by chromatography on silica gel eluting with hexane-ethyl acetate (85:15) to give (6-dibenzylamino-1H-indol-3-yl)-acetonitrile (8.8 g); MS (ES): 352 (MH+), which was then treated in a manner similar to that described in in Example 34C-G but replacing (6-benzyloxy-1H-indol-3-yl)acetonitrile with (6-dibenzylamino-1H-indo-3-yl)acetonitrile at Step C.

reactant | 8-dibenzylamino-1,1-dimethyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CNCC(C2=C1NC=1C=C(C=CC21)N(CC2=CC=CC=C2)CC2=CC=CC=C2)(C)C | C31H33N3O2
reactant | Benzyl bromide | 84.2 mmol, 10 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | (6-amino-1H-indol-3-yl)acetonitrile | NC1=CC=C2C(=CNC2=C1)CC#N | C10H9N3
reactant | potassium carbonate | 78.36 mmol, 10.83 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 3.74 mmol, 560 mg | [I-].[Na+]
solvent | water | O | H2O
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | (6-dibenzylamino-1H-indol-3-yl)-acetonitrile | 8.8 g | C(C1=CC=CC=C1)N(C1=CC=C2C(=CNC2=C1)CC#N)CC1=CC=CC=C1 | C24H21N3
